US07786165B2
To a solution of ethyl 3-(2-fluoro-4-{({4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl) [(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (2.24 g, 3.04 mmol) in ethyl acetate (15 mL) was added m-chloroperbenzoic acid (70%, 0.46 g, 1.88 mmol) under stirring at 0° C., and the mixture was stirred at room temperature for 3 days. The reaction mixture was washed with 1 M aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-ethyl acetate-ethyl acetate/methanol=17/3) to give ethyl 3-(2-fluoro-4-{({4′-[(4-hydroxy-1-oxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (1.36 g, yield 60%) as a colorless amorphous powder. To a solution of the obtained ethyl 3-(2-fluoro-4-{({4′-[(4-hydroxy-1-oxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (1.36 g, 1.81 mmol) and mercaptoacetic acid (0.38 mL, 5.43 mmol) in N,N-dimethylformamide (10 mL) was added lithium hydroxide monohydrate (0.46 g, 10.86 mmol) under stirring at room temperature, and the mixture was stirred at the same temperature for 3 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogencarbonate and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-ethyl acetate) to give the title compound (0.52 g, yield 50%) as a colorless oil.

reactant | ethyl 3-(2-fluoro-4-{({4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl) [(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 3.04 mmol, 2.24 g | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC=1C=C(C=CC1)C1=C(C=C(C=C1C)OCC1(CCSCC1)O)C)CCC(=O)OCC | C38H41FN2O8S2
reactant | m-chloroperbenzoic acid | 1.88 mmol, 0.46 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(2-fluoro-4-{({4′-[(4-hydroxy-1-oxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 1.36 g, yield 60% | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC=1C=C(C=CC1)C1=C(C=C(C=C1C)OCC1(CCS(CC1)=O)O)C)CCC(=O)OCC | C38H41FN2O9S2
